US09422281B2
A 50-mL round bottomed flask was charged with (S)-1-(7-bromo-3-methyl-1-tosyl-2,3-dihydropyrido[3,2-b]pyrazin-4(1H)-yl)ethanone (1.2 g, 2.83 mmol) and sulfuric acid (5.79 mL, 109 mmol). A slight exotherm was observed. The mixture was stirred until all the substrate dissolved (ca. 20-30 min). After a total of 30-45 min, the pale yellow solution was carefully pipetted onto crushed ice (50 g). The flask was rinsed with a small portion of water (ca. 2 mL), which was also added to the crushed ice. The crushed ice/aqueous solution mixture was then stirred as 10 N aqueous sodium hydroxide solution was slowly added while maintaining the internal temperature below 9° C. (with the aid of an external crushed ice/water bath). The pH was adjusted to 11-12 (a total of ca. 22 mL 10 N aqueous sodium hydroxide solution was added). After the addition was complete, the mixture was poured into a separatory funnel and extracted with dichloromethane. The dichloromethane layer was washed with water (2×30 mL) and concentrated under reduced pressure. The crude product was purified by column chromatography on silica gel (eluting with 4:1 dichloromethane-ethyl acetate) to afford (5)-1-(7-bromo-3-methyl-2,3-dihydropyrido[3,2-b]pyrazin-4(1H)-yl)ethanone (384 mg, 50%) as a colorless foam. MS (ESI, pos. ion) m/z 270, 272 [M+1]+.

reactant | (S)-1-(7-bromo-3-methyl-1-tosyl-2,3-dihydropyrido[3,2-b]pyrazin-4(1H)-yl)ethanone | 2.83 mmol, 1.2 g | BrC1=CC=2N(C[C@@H](N(C2N=C1)C(C)=O)C)S(=O)(=O)C1=CC=C(C)C=C1 | C17H18BrN3O3S
reactant | sulfuric acid | 109 mmol, 5.79 mL | S(O)(O)(=O)=O | H2O4S
product | (5)-1-(7-bromo-3-methyl-2,3-dihydropyrido[3,2-b]pyrazin-4(1H)-yl)ethanone | 384 mg, 50% | BrC1=CC=2NC[C@@H](N(C2N=C1)C(C)=O)C | C10H12BrN3O
